US06897231B2
SYNTHESIS OF 4-{5-[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]-4H-1,2,4-TRIAZOL-3-YL}PHENOL
To a round bottom flask containing 1-{5-[3-(4-fluorophenyl)(1H-indazol-5-yl)](4H-1,2,4-triazol-3-yl)]-4-methoxybenzene (100 mg, 0.26 mmol) was added anhydrous dichloromethane (2 ml). The flask, under a nitrogen atmosphere, was placed in an ice/salt bath. To the flask was added boron tribromide (1.3 ml, 1.3 mmol). The reaction was allowed to stir at 0° C. for one hour and at room temperature for an additional four hours. The reaction was quenched with water and the solvent was removed. The product was extracted from the reaction mixture with ethyl acetate. The organic layer was dried with magnesium sulfate, filtered and concentrated. The product was purified by semipreparative HPLC (20-80% acetonitrile over 30 minutes) to yield the title compound (18 mg, 18.7% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 9.95 (s, 1H), 8.65 (s, 1H), 8.1 (m, 3H), 7.95 (m, 2H), 7.78 (d, 1H), 7.4 (m, 2H), 6.85 (m, 2H), ES-MS m/z 372 [M+H]+.

reactant | 1-{5-[3-(4-fluorophenyl)(1H-indazol-5-yl)](4H-1,2,4-triazol-3-yl)]-4-methoxybenzene | 0.26 mmol, 100 mg | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=C(C=C1)OC | C22H16FN5O
reactant | boron tribromide | 1.3 mmol, 1.3 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-{5-[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]-4H-1,2,4-TRIAZOL-3-YL}PHENOL | 18 mg, 18.7% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=C(C=C1)O | C21H14FN5O
